US05846804
One hundred ml aliquots of a nutrient culture medium, consisting of 2 w/v % trypton soya broth, one w/v % glycerol and deionized water, were distributed to ten 500-ml shaking flasks, followed by autoclaving the flasks at 120° C. for 20 min. Thereafter, the flasks were cooled and inoculated with a seed culture of Gluconobacter frateurii (IFO 3254) using a platinum loop, followed by incubation at 30° C. for 2 days under shaking conditions. After completion of the culture, the cells were collected by centrifugation, and about 10 g wet alive cells was mixed with 100 ml of 0.05M Tris-HCl buffer (pH 7.0) containing 5 w/v % ribitol. The mixture solution in a volume of 100 ml was placed in a 500-ml shaking flask, and incubated at 30° C. for 20 hours under shaking conditions to convert ribitol into L-ribulose. Thereafter, the culture was centrifuged to remove cells, and the resulting supernatant was in a conventional manner decolored with activated charcoal, desalted with "DIAION SK1B (H-form)" and "DIAION WA30 (OH-form)", both of which are cation exchangers of Mitsubishi Chemical Corporation, Tokyo, Japan, and concentrated in vacuo to obtain a transparent syrup with a concentration of about 60 w/w %. The syrup was fractionated by column chromatography using "DOWEX 50W-X4", a cation exchanger in Ca++ -form commercialized by The Dow Chemical Co., Midland, Mich., USA, to obtain high L-ribulose content fractions which were then concentrated into an about 70 w/w % syrup. High-performance liquid chromatographic (HPLC) analysis using a column, 8×300 mm, packed with "MCIGEL CK-08EC", a gel in Ca++ -form commercialized by Mitsubishi Chemical Corporation, Tokyo, Japan, revealed that the product contained at least 97 w/w % L-ribulose, d.s.b. The yield of L-ribulose to the material ribitol was about 90%, d.s.b.

reactant | glycerol | OCC(O)CO | C3H8O3
catalyst | platinum | [Pt] | Pt
solvent | water | O | H2O
product | L-ribulose | OCC(=O)[C@@H](O)[C@@H](O)CO | C5H10O5
